US04410539
Boron tribromide (5.0 ml.) was added dropwise to a stirred solution of 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (4.70 g.) in dry methylene chloride (200 ml.) at -78° C. and the resulting suspension was stirred at -78° for 15 minutes followed by 24 hours at room temperature. The mixture was then treated cautiously with methanol and the solution was washed with sodium bicarbonate solution. The organic layer was dried (Na2SO4) and evaporated to give a solid which was chromatographed on silica gel. Elution with chloroform first gave a trace of impurity followed by pure product. The product-containing fractions were evaporated to give a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80°) to give 6-hydroxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester (3.58 g.), m.p. 174°-176°.

reactant | Boron tribromide | 5.0 ml | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 4.70 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)OC)C | C12H12O3S
reactant | methanol | CO | CH4O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-3-methylbenzo[b]thiophene-2-carboxylic acid methyl ester | 3.58 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)O)C | C11H10O3S
